US07638517B2
To a RT solution of 2-[phenyl-(1H-pyrrolo[3,2-c]pyridin-3-yl)-methyl]-malonic acid diethyl ester (0.77 g) in EtOH (40 mL) was added NaOH (2 M in water, 15 ml). The mixture was stirred at reflux for 5 h, cooled to RT, and concentrated. The aqueous residue was acidified by addition of HCl (1 M) until dissolution. To this solution was added EtOAc resulting in precipitation of a solid, which was collected by filtration and dried, affording 2-[Phenyl-(1H-pyrrolo[3,2-c]pyridin-3-yl)-methyl]-malonic acid (341 mg, 52% yield).

reactant | 2-[phenyl-(1H-pyrrolo[3,2-c]pyridin-3-yl)-methyl]-malonic acid diethyl ester | 0.77 g | C(C)OC(C(C(=O)OCC)C(C1=CNC2=C1C=NC=C2)C2=CC=CC=C2)=O | C21H22N2O4
reactant | NaOH | 2 M, 15 ml | [OH-].[Na+]
solvent | EtOH | 40 mL | CCO | C2H6O
product | 2-[Phenyl-(1H-pyrrolo[3,2-c]pyridin-3-yl)-methyl]-malonic acid | 341 mg, 52% yield | C1(=CC=CC=C1)C(C(C(=O)O)C(=O)O)C1=CNC2=C1C=NC=C2 | C17H14N2O4
